US04774248
40 g (0.186 mol) of 5-phenyl-1,4,5,6-tetrahydropyrimidine hydrochloride hemihydrate are dissolved in water, NaOH is added until the pH is 11 and the free base formed (5-phenyl-1,4,5,6-tetrahydropyrimidine) is collected. After washing with water and then drying in an oven at 60° C., 22.2 g (0.139 mol) of the said free base are dissolved in 555 ml of pyridine, and 14.15 g (0.139 mol) of acetic anhydride are added. The mixture is left to stand at room temperature (15°-20° C.) for 20 h and evaporated to dryness, the evaporation residue is taken up with 100 ml of anhydrous ethanol and acidified with ethanol containing HCl, and the crystals formed are filtered off. Recrystallization from anhydrous ethanol gives 11 g (yield: 33%) of CRL 41 378. M.p. (inst.)=200° C.

reactant | 5-phenyl-1,4,5,6-tetrahydropyrimidine hydrochloride hemihydrate | 0.186 mol, 40 g | O.Cl.C1(=CC=CC=C1)C1CN=CNC1.C1(=CC=CC=C1)C1CN=CNC1.Cl
reactant | NaOH | [OH-].[Na+]
solvent | water | O | H2O
product | 5-phenyl-1,4,5,6-tetrahydropyrimidine | yield: 33% | C1(=CC=CC=C1)C1CN=CNC1 | C10H12N2
